US04435407
To a solution of 6.8 g of cyanoacetic acid in 200 ml of acetonitrile was added a solution of 8.65 g of 2-aminomethylpyridine in 50 ml of acetonitrile, and to the resulting suspension there was added rapidly (with stirring) a solution of 18.5 g of dicyclohexylcarbodiimide in 50 ml of acetonitrile. After stirring 5 hours and standing overnight, the suspension was filtered. The filtrate was evaporated, and the crude residue was triturated with ether-ethyl acetate to give crystals, m.p. 78°-80°. Recrystallization from toluene yielded the 2-(cyanoacetylaminomethyl)-pyridine, m.p. 81°-82°.

reactant | cyanoacetic acid | 6.8 g | C(#N)CC(=O)O | C3H3NO2
reactant | 2-aminomethylpyridine | 8.65 g | NCC1=NC=CC=C1 | C6H8N2
reactant | dicyclohexylcarbodiimide | 18.5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-(cyanoacetylaminomethyl)-pyridine | C(#N)CC(=O)NCC1=NC=CC=C1 | C9H9N3O
